US06706725B1
f) 1-{4-[2-(3,4-bis-Hydroxymethyl-phenyl)ethyl]-2-thienyl}-1-propanone
In a manner similar to that of Example 6(g), by reaction of 5.3 g (15 mmol) of (4-{2-[2-(2-ethyl-[1,3]dioxolan-2-yl)-4-thienyl]ethyl}-2-hydroxymethyl-phenyl)methanol with a solution of para-toluenesulphonic acid in an acetone/water mixture, the desired product is obtained in the form of a white powder (m=4 g; Y=86%).

reactant | (4-{2-[2-(2-ethyl-[1,3]dioxolan-2-yl)-4-thienyl]ethyl}-2-hydroxymethyl-phenyl)methanol | 15 mmol, 5.3 g | C(C)C1(OCCO1)C=1SC=C(C1)CCC1=CC(=C(C=C1)CO)CO | C19H24O4S
reactant | para-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone water | CC(=O)C.O
product | 1-{4-[2-(3,4-bis-Hydroxymethyl-phenyl)ethyl]-2-thienyl}-1-propanone | OCC=1C=C(C=CC1CO)CCC=1C=C(SC1)C(CC)=O | C17H20O3S
